US05852042
N-(3-chloro-2-methoxymethyl-4-pyridinyl)-2-[4-(4-chloro-phenoxy)-phenyl]-acetamide:
0.58 g (3.36 mmol) of 4-amino-3-chloro-2-methoxymethylpyridine was added to 0.94 g (3.36 mmol) of 4-(4-chloro-phenoxy)phenylacetyl chloride in 40 ml of xylene, and the mixture was refluxed for 8 hours. After the xylene had been removed in vacuo, the residue was taken up in methylene chloride. The mixture was washed with water and 0.1N aqueous sodium hydroxide solution, the combined aqueous phases were rendered neutral and extracted three times using ethyl acetate, and the ethyl acetate phase was dried over sodium sulfate. After the solvent had been removed in vacuo and the residue purified by column chromatography (silica gel, ethyl acetate:petroleum ether=80:20), 0.40 g of a yellow oil were obtained.

reactant | 4-amino-3-chloro-2-methoxymethylpyridine | 3.36 mmol, 0.58 g | NC1=C(C(=NC=C1)COC)Cl | C7H9ClN2O
reactant | 4-(4-chloro-phenoxy)phenylacetyl chloride | 3.36 mmol, 0.94 g | ClC1=CC=C(OC2=CC=C(C=C2)CC(=O)Cl)C=C1 | C14H10Cl2O2
solvent | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-(3-chloro-2-methoxymethyl-4-pyridinyl)-2-[4-(4-chloro-phenoxy)-phenyl]-acetamide | 0.40 g | ClC=1C(=NC=CC1NC(CC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)=O)COC | C21H18Cl2N2O3
